US06344483B1
N-Boc-L-cysteine is reacted with 2-chloro-1,1-difluoro-ethene in the same manner as described in J. Chem, Res. Miniprint 12, 1990; p 2868 to form N-Boc-S-(2-chloro-1,1-di fluoroethyl)-L-cysteine. N-Boc-S-(2-chloro-1,1-difluoroethyl)-L-cysteine is reacted with potassium phthalimide in DMF at 100° C. to form the phthalimide. The phthalimide is treated with hydrazine in ethanol to form the amine. The amine is treated with ethyl acetimidate hydrochloride to form the amidine. This material is purified via C-18 chromatography to afford the Boc compound. The Boc group is removed with HCl/dioxane (4 N) in acetic acid to afford the title compound.

reactant | N-Boc-L-cysteine | C(=O)(OC(C)(C)C)N[C@@H](CS)C(=O)O | C8H15NO4S
reactant | 2-chloro-1,1-difluoro-ethene | ClC=C(F)F | C2HClF2
product | N-Boc-S-(2-chloro-1,1-di fluoroethyl)-L-cysteine | C(=O)(OC(C)(C)C)N[C@@H](CSC(CCl)(F)F)C(=O)O | C10H16ClF2NO4S
